US05455351
A. 4-(Chloromethyl)-2-(dimethylamino)thiazole
A mixture of 15 g (144 mmol) of N,N-dimethylthiourea and excess MgSO4 in 350 ml of acetone was heated to reflux and treated dropwise with a solution of 18.3 g (144 mmol) of 1,3-dichloroacetone in 35 ml of acetone. The resulting mixture was heated at reflux for 1.5 h, allowed to cool, filtered, and concentrated in vacuo. The residue was purified by silica gel chromatography using 20% ethyl acetate in hexane to provide 14.0 g (70%) of the desired compound.

reactant | N,N-dimethylthiourea | 144 mmol, 15 g | CN(C(=S)N)C | C3H8N2S
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | 1,3-dichloroacetone | 144 mmol, 18.3 g | ClCC(=O)CCl | C3H4Cl2O
solvent | acetone | 350 ml | CC(=O)C | C3H6O
solvent | acetone | 35 ml | CC(=O)C | C3H6O
product | 4-(Chloromethyl)-2-(dimethylamino)thiazole | 14.0 g, 70% | ClCC=1N=C(SC1)N(C)C | C6H9ClN2S
